US05622976
A solution of 1-benzyl-4-formylpiperidine (4.5 g) in tetrahydrofuran (20 ml) was added dropwise to a suspension of diethyl cyanomethylphosphonate (4.31 g) and sodium hydride (0.97 g, 60% suspension in oil) in tetrahydrofuran (30 ml) at 0° C. under stirring. After stirring for 1 hour at ambient temperature, the mixture was poured into water and extracted with ethyl acetate. The extract was washed with water and brine and dried over magnesium sulfate, and evaporated in vacuo to give (E)-3-(1-benzylpiperidin-4-yl)-2-propenenitrile (5.5 g) as an oil.

reactant | 1-benzyl-4-formylpiperidine | 4.5 g | C(C1=CC=CC=C1)N1CCC(CC1)C=O | C13H17NO
reactant | diethyl cyanomethylphosphonate | 4.31 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium hydride | 0.97 g | [H-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (E)-3-(1-benzylpiperidin-4-yl)-2-propenenitrile | 5.5 g | C(C1=CC=CC=C1)N1CCC(CC1)/C=C/C#N | C15H18N2
